US07326732B2
(iii) 5-Amino-1-methyl-1H-indole-2-carboxylic acid methyl ester
1-Methyl-5-nitro-1H-indole-2-carboxylic acid methyl ester (70 mg, 0.3 mmol) was dissolved in DMF (5 ml) and SnCl2.2H2O (339 mg, 1.5 mmol) was added as a solid. The resulting solution was stirred at 60° C. for 4 h. After cooling to room temperature, a pre-mixed aqueous solution of saturated Rochelle's salt (3 ml) and saturated NaHCO3 (3 ml) was added to the reaction mixture and the aqueous layer was extracted with EtOAc (3×6 ml). The organic layer was washed with H2O (3 ml), 1:1 NaHCO3:Rochelle's salt solution (3 ml), dried (MgSO4), filtered and the solvent was removed in vacuo to give the title compound.

reactant | 1-Methyl-5-nitro-1H-indole-2-carboxylic acid methyl ester | 0.3 mmol, 70 mg | COC(=O)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])C | C11H10N2O4
reactant | SnCl2.2H2O | 1.5 mmol, 339 mg | O.O.Cl[Sn]Cl
reactant | Rochelle's salt | 3 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-Amino-1-methyl-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC=C(C=C2C1)N)C | C11H12N2O2
